US08012976B2
A mixture of methyl 2-(4-(4-(cyclopropanecarbonyl)piperazine-1-carbonyl)phenyl)-4-oxo-3-phenyl-1,2,3,4-tetrahydroquinoline-5-carboxylate (300 mg, 0.55 mmol) and hydrazine monohydrate (3 mL) was stirred room temperature for 3 h. The resulting mixture was evaporated under reduced pressure to 10 mL and then filtered; the filtrate was concentrated to give the crude product. The crude product was purified by pre-HPLC to give 8-(4-(4-(cyclopropanecarbonyl)piperazine-1-carbonyl)phenyl)-9-phenyl-8,9-dihydro-2H-pyrido[4,3,2-de]phthalazin-3(7H)-one as a white solid (4 mg, yield 19%). 1H-NMR (400 MHz, DMSO-d6) δ (ppm): 0.71-0.74 (m, 4H), 1.97 (t, 1H), 3.46-3.76 (m, 8H), 4.36 (dd, 1H), 4.83 (dd, 1H), 7.13-7.23 (m, 6H), 7.30 (d, 2H), 7.38 (t, 3H), 7.47 (s, 1H), 7.59 (t, 1H), 12.17 (s, 1H); LC-MS (ESI) m/z: 520(M+1)+.

reactant | methyl 2-(4-(4-(cyclopropanecarbonyl)piperazine-1-carbonyl)phenyl)-4-oxo-3-phenyl-1,2,3,4-tetrahydroquinoline-5-carboxylate | 0.55 mmol, 300 mg | C1(CC1)C(=O)N1CCN(CC1)C(=O)C1=CC=C(C=C1)C1NC=2C=CC=C(C2C(C1C1=CC=CC=C1)=O)C(=O)OC | C32H31N3O5
reactant | hydrazine monohydrate | 3 mL | O.NN
product | 8-(4-(4-(cyclopropanecarbonyl)piperazine-1-carbonyl)phenyl)-9-phenyl-8,9-dihydro-2H-pyrido[4,3,2-de]phthalazin-3(7H)-one | 4 mg, yield 19% | C1(CC1)C(=O)N1CCN(CC1)C(=O)C1=CC=C(C=C1)C1C(C2=NNC(C=3C=CC=C(C23)N1)=O)C1=CC=CC=C1 | C31H29N5O3
